US08614206B2
A mixture of (±)-2-(trifluoromethyl)piperazine (1 g, 6.2 mmol), 5-chloro-1-methyl-4-nitro-1H-pyrazole (2.1 g, 13 mmol), DIPEA (2.4 g, 18.6 mmol) in EtOH (10 mL) was heated in a microwave oven at 140° C. for 5 hours. The reaction mixture was concentrated under reduced pressure to give a residue. The residue was purified by silica gel chromatography using DCM/MeOH (10:1) as eluting solvents to afford (±)-1-(1-methyl-4-nitro-1H-pyrazol-5-yl)-3-(trifluoromethyl)piperazine as a yellow oil (1.8 g, 99%). MS (ESI) m/z: 280 [M+H+].

reactant | (±)-2-(trifluoromethyl)piperazine | 6.2 mmol, 1 g | FC(C1NCCNC1)(F)F | C5H9F3N2
reactant | 5-chloro-1-methyl-4-nitro-1H-pyrazole | 13 mmol, 2.1 g | ClC1=C(C=NN1C)[N+](=O)[O-] | C4H4ClN3O2
reactant | DIPEA | 18.6 mmol, 2.4 g | CCN(C(C)C)C(C)C | C8H19N
solvent | EtOH | 10 mL | CCO | C2H6O
product | (±)-1-(1-methyl-4-nitro-1H-pyrazol-5-yl)-3-(trifluoromethyl)piperazine | 1.8 g, 99% | CN1N=CC(=C1N1CC(NCC1)C(F)(F)F)[N+](=O)[O-] | C9H12F3N5O2
